US08084448B2
D. (4-Iodobutane-1-sulfonyl)-benzene
To a solution of imidazole (1.4 g, 20.5 mmol) in CH2Cl2 (20 mL) is added PPh3 (5.4 g, 20.5 mmol). The solution is cooled to 0° C. and iodine (5.2 g, 20.5 mmol) is added in 2 portions. The mixture is allowed to warm to RT then 4-benzenesulfonylbutan-1-ol is added and the mixture is stirred at RT for 24 h. The mixture is diluted with water and extracted with EtOAc (3×). The organic layer is washed with a 20% solution of Na2S2O3 and dried over magnesium sulfate. The solvent is removed under reduced pressure and the residue purified by flash chromatography using hexane/EtOAc (1:1) as eluent to give the title compound as a white solid.

reactant | imidazole | 20.5 mmol, 1.4 g | N1C=NC=C1 | C3H4N2
reactant | PPh3 | 20.5 mmol, 5.4 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | iodine | 20.5 mmol, 5.2 g | II | I2
reactant | 4-benzenesulfonylbutan-1-ol | C1(=CC=CC=C1)S(=O)(=O)CCCCO | C10H14O3S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (4-Iodobutane-1-sulfonyl)-benzene | ICCCCS(=O)(=O)C1=CC=CC=C1 | C10H13IO2S
